US07232821B2
a) 3-{2-[2-(benzyloxy)-phenyl]-cyclopent-1-enyl]-benzoic acid
3-(2-Bromo-cyclopent-1-enyl] benzoic acid ethyl ester (0.148 g, 0.0005 mol), tetrakis-triphenylphosphine palladium (o) (30 mg), potassium carbonate (0.200 g) and (2-benzyloxyphenyl) boronic acid (0.110 g, 0.5 mmol) in dimethoxyethane (5 mL) were refluxed for 17 h under nitrogen. The reaction mixture was then filtered through Keiselghur and evaporated down to an oil. Purification was carried out on a Waters separation pack (10 g) cartridge with dichloromethane/iso hexane giving the product (120 mg).

reactant | 3-(2-Bromo-cyclopent-1-enyl] benzoic acid ethyl ester | 0.0005 mol, 0.148 g | C(C)OC(C1=CC(=CC=C1)C1=C(CCC1)Br)=O | C14H15BrO2
reactant | potassium carbonate | 0.200 g | C([O-])([O-])=O.[K+].[K+]
reactant | (2-benzyloxyphenyl) boronic acid | 0.5 mmol, 0.110 g | C(C1=CC=CC=C1)OC1=C(C=CC=C1)B(O)O | C13H13BO3
solvent | dimethoxyethane | 5 mL | C(OC)COC | C4H10O2
product | 3-{2-[2-(benzyloxy)-phenyl]-cyclopent-1-enyl]-benzoic acid | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C1=C(CCC1)C=1C=C(C(=O)O)C=CC1 | C25H22O3
